US08664220B2
Step 1: 3-Bromo-5-(4-trifluoromethyl-phenyl)-pyridine
Prepared according to the procedure described in Example 1, Step 10, using 3,5-dibromo-pyridine and 4-(trifluoromethyl)-phenylboronic acid.

reactant | 3,5-dibromo-pyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 4-(trifluoromethyl)-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-Bromo-5-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F | C12H7BrF3N
